US07419984B2
Using 1H-indazol-6-yl-amine in place of 4-chloro-phenylamine in the method described in Example 2 for the synthesis of 6-chloro-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine provided 6-chloro-N*4*-(1H-indazol-6-yl)-pyrimidine-2,4-diamine (42% yield).

reactant | 1H-indazol-6-yl-amine | N1N=CC2=CC=C(C=C12)N | C7H7N3
reactant | 6-chloro-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | ClC1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl | C10H8Cl2N4
product | 6-chloro-N*4*-(1H-indazol-6-yl)-pyrimidine-2,4-diamine | 42% yield | ClC1=CC(=NC(=N1)N)NC1=CC=C2C=NNC2=C1 | C11H9ClN6
